US03978121
E. 3-dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-ol
3-Dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-one (6.9 g., 0.022 mole) and 100 ml. of absolute methanol are stirred and heated to refluxing. A solution of 1.6 g. (0.0296 mole) of potassium borohydride in 12 ml. of water containing one pellet of potassium hydroxide is added dropwise at a rate such that reflux is maintained without external heating. After another 11/2 hours at reflux, the solution is evaporated to dryness under reduced pressure. The residual white solid is suspended in water, collected, and crystallized from 95% ethanol. The yield of 3-dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-ol is 6.05 g. (87%), m.p. 150°-152°C. The melting point is unchanged by further recrystallization.

reactant | 3-Dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-one | 0.022 mole, 6.9 g | CN(S(=O)(=O)C=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1)C | C17H15NO3S
reactant | methanol | CO | CH4O
reactant | potassium borohydride | 0.0296 mole | [BH4-].[K+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 3-dimethylsulfamoyl-5H-dibenzo[a,d]cyclohepten-5-ol | CN(S(=O)(=O)C=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1)C | C17H17NO3S
